US07375222B2
A 7.5 mg (60 μmol) portion of p-fluorobenzylamine and 52 μl of diisopropylethylamine were added to a mixed solution of 400 μl of acetonitrile and 120 μl of N-methylpyrrolidone containing 8.9 mg (30 μmol) of 6-chloro-N,N′-diphenyl-1,3,5-triazine-2,4-diamine and stirred at 80° C. for 3 hours. The reaction solution was filtered and then injected into a fractional LC-MS apparatus to collect a fraction containing the desired molecular weight. By evaporating the solvent, 6.1 mg (yield 45%) of N,N′-diphenyl-N″-(4-fluorobenzyl)-1,3,5-triazine-2,4,6-triamine was obtained. A retention time of 2.77 minutes and a purity of 93% were determined by an analytical LC-MS.

reactant | p-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | diisopropylethylamine | 52 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methylpyrrolidone | 30 μmol, 120 μl, 8.9 mg | CN1C(CCC1)=O | C5H9NO
reactant | 6-chloro-N,N′-diphenyl-1,3,5-triazine-2,4-diamine | ClC1=NC(=NC(=N1)NC1=CC=CC=C1)NC1=CC=CC=C1 | C15H12ClN5
solvent | acetonitrile | 400 μl | C(C)#N | C2H3N
product | N,N′-diphenyl-N″-(4-fluorobenzyl)-1,3,5-triazine-2,4,6-triamine | 6.1 mg, yield 45% | C1(=CC=CC=C1)NC1=NC(=NC(=N1)NC1=CC=CC=C1)NCC1=CC=C(C=C1)F | C22H19FN6
